US04797417
3-Chloroperbenzoic acid (2.14 g) was added to a solution of 5-(t-butyldiphenylsilyloxy)-1-phenyl-1-pentene (3.30 g) in dichloromethane (65 ml) at ambient temperature and the resulting mixture was stirred at the same temperature for 2 hours. The reaction mixture was poured into a mixture of diethyl ether and 5% aqueous sodium bisulfite (100 ml). The organic layer was separated, washed with aqueous sodium bicarbonate, water and brine, dried over magnesium sulfate, and evaporated in vacuo to give (2R*, 3R*)-3-[3-(t-butyldiphenylsilyloxy)propyl]-2-phenyloxirane (3.45 g) as an oil.

reactant | 3-Chloroperbenzoic acid | 2.14 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-(t-butyldiphenylsilyloxy)-1-phenyl-1-pentene | 3.30 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC=CC1=CC=CC=C1 | C27H32OSi
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | sodium bisulfite | 100 ml | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 65 ml | ClCCl | CH2Cl2
product | 3-[3-(t-butyldiphenylsilyloxy)propyl]-2-phenyloxirane | 3.45 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1C(O1)C1=CC=CC=C1 | C27H32O2Si
